US06069145
5-Benzyloxycarbonylamino-2-(4-methyl-3-oxopiperazin-1-yl)fluorobenzene (4.5 g) was dissolved in dry THF (100 ml) under argon and the solution cooled to -78° C. A solution of n-butyllithium (8.67 ml, 1.6 M in hexane) was added to this whilst keeping the temperature below -60° C. The mixture was stirred for 5 minutes and (R)-glycidylbutyrate (1.86 ml) was added. Stirring was continued at -78° C. for 30 minutes and the temperature then allowed to rise to ambient over 16 hours. The mixture was evaporated to dryness and then treated with dichloromethane. The mixture was filtered to give (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one (409 mg). The residual organic solution was washed twice with water, and then brine. After drying (MgSO4) and evaporation of solvent, the residue was chromatographed on silica, using as eluant a gradient increasing in polarity from 0 to 6% methanol in dichloromethane. Relevant fractions were combined and evaporated to give further (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one product (535 mg).

reactant | 5-Benzyloxycarbonylamino-2-(4-methyl-3-oxopiperazin-1-yl)fluorobenzene | 4.5 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1CC(N(CC1)C)=O | C19H20FN3O3
reactant | n-butyllithium | 1.6 M, 8.67 ml | C(CCC)[Li]
reactant | (R)-glycidylbutyrate | 1.86 ml | C([C@H]1CO1)OC(CCC)=O | C7H12O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one | 409 mg | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)N1C(O[C@H](C1)CO)=O | C15H18FN3O4
